US07435267B2
Step 1: Preparation of (3-isopropoxypropyl)(4-nitrophenyl)amine (5)
42 ml of 3-isopropoxypropylamine was added to 21 g (0.15 mol) of 1-fluoro-4-nitrobenzene. As the reaction is exothermic, the temperature was maintained at 90° C. by cooling slightly. After 30 minutes, the reaction was complete. The medium was poured onto ice, and an oil appeared. This oil was extracted with ethyl acetate, and the organic phase is washed with water and dried over sodium sulfate. After the oil was evaporated to dryness, 35 g of a yellow oil were obtained.

reactant | 3-isopropoxypropylamine | 42 ml | C(C)(C)OCCCN | C6H15NO
reactant | 1-fluoro-4-nitrobenzene | 0.15 mol, 21 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
product | (3-isopropoxypropyl)(4-nitrophenyl)amine | 35 g | C(C)(C)OCCCNC1=CC=C(C=C1)[N+](=O)[O-] | C12H18N2O3
